US05322847
A. methyl 2-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)benzyloxy]benzoate
4-[2-Methylimidazo[4,5-c]pyrid-1-yl]benzyl alcohol (2.39 g), methyl salycylate (1.67 g) and triphenylphosphine (2.88 g) were dissolved in dry tetrahydrofuran (50 ml). Diethylazodicarboxylate (2.09 g) was added dropwise over 5 minutes. The resulting solution was stirred at room temperature for 1 hour then evaporated to dryness under vacuum. The residue was chromatographed on silica (Merck, Kieselgel 60) eluting with dichloromethane/methanol (97:3 v:v). The product containing fractions were evaporated and the residue crystallized from ether to give 3.5 g of the desired product, m.p. 126°-128° C.

reactant | 4-[2-Methylimidazo[4,5-c]pyrid-1-yl]benzyl alcohol | 2.39 g | CC=1N(C2=C(C=NC=C2)N1)C1=CC=C(CO)C=C1 | C14H13N3O
reactant | triphenylphosphine | 2.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethylazodicarboxylate | 2.09 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl 2-[4-(2-methylimidazo[4,5-c]pyrid-1-yl)benzyloxy]benzoate | 3.5 g | CC=1N(C2=C(C=NC=C2)N1)C1=CC=C(COC2=C(C(=O)OC)C=CC=C2)C=C1 | C22H19N3O3
